US06423713B1
5-(N-methylaminomethyl)-4-(4-pyridyl)-3-(4-fluorophenyl)pyrazole
To a suspension of 5-(N-formylaminomethyl)-4-(4-pyridyl)-3-(4-fluorophenyl) pyrazole (8.74 g, 29.5 mmol) in 90 mL anhydrous tetrahydrofuran was added a 1.0 M solution of borane in tetrahydrofuran (90 mL, 90 mmol) and the mixture was stirred at room temperature for 24 h. 1 N aqueous hydrochloric acid (100 mL) was then added to this mixture and the solution was refluxed for 5 hours and cooled to room temperature. The solution was extracted with ether (2×250 mL) and the pH of the aqueous layer adjusted to 9 by addition of concentrated ammonium hydroxide. The aqueous layers (pH˜9) were then extracted with ethyl acetate (4×150 mL). The organic extracts were dried over sodium sulfate, filtered and evaporated to dryness under reduced pressure. The residue was triturated with acetonitrile and filtered to obtain the title compound as a white solid: MS (M+H): 283 (base peak).

reactant | 5-(N-formylaminomethyl)-4-(4-pyridyl)-3-(4-fluorophenyl) pyrazole | 29.5 mmol, 8.74 g | C(=O)NCC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C16H13FN4O
reactant | borane | B | BH3
reactant | hydrochloric acid | 1 N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 mmol, 90 mL | O1CCCC1 | C4H8O
product | 5-(N-methylaminomethyl)-4-(4-pyridyl)-3-(4-fluorophenyl)pyrazole | CNCC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C16H15FN4
